US04054741
7-(2,6-Dioxocyclohexyl)-5-heptynoic acid methyl ester (21.0 g), prepared as described in Example 13, is dissolved in chloroform (300 ml) cooled to 20° C and t-butyl hypochlorite (9.5 g) in chloroform (10 ml) is added to the well stirred solution over a period of 15 minutes. The mixture is stirred for another 30 minutes and allowed to warm up to room temperature. Removal of the solvent affords 7-(1-chloro-2,6-dioxocyclohexyl)-5-heptynoic acid methyl ester, γmaxFilm 1730, 1720.

reactant | 7-(2,6-Dioxocyclohexyl)-5-heptynoic acid methyl ester | 21.0 g | COC(CCCC#CCC1C(CCCC1=O)=O)=O | C14H18O4
reactant | t-butyl hypochlorite | 9.5 g | ClOC(C)(C)C | C4H9ClO
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-(1-chloro-2,6-dioxocyclohexyl)-5-heptynoic acid methyl ester | COC(CCCC#CCC1(C(CCCC1=O)=O)Cl)=O | C14H17ClO4
